US07241760B2
3-[1-(5-Dimethylamino-pyridin-3-yl)-2-methyl-1H-imidazol-4-ylethynyl]-benzonitrile
The title compound, MS: m/e=328.4 (M+), was prepared in accordance with the general method of example 27 from 3-[1-(5-fluoro-pyridin-3-yl)-2-methyl-1H-imidazol-4-ylethynyl]-benzonitrile and dimethylamine hydrochloride.

reactant | 3-[1-(5-fluoro-pyridin-3-yl)-2-methyl-1H-imidazol-4-ylethynyl]-benzonitrile | FC=1C=C(C=NC1)N1C(=NC(=C1)C#CC=1C=C(C#N)C=CC1)C | C18H11FN4
reactant | dimethylamine hydrochloride | Cl.CNC
product | 3-[1-(5-Dimethylamino-pyridin-3-yl)-2-methyl-1H-imidazol-4-ylethynyl]-benzonitrile | CN(C=1C=C(C=NC1)N1C(=NC(=C1)C#CC=1C=C(C#N)C=CC1)C)C | C20H17N5
